US04278797
A solution of 1-benzyl-4-phenyl-1,2,5,6-tetrahydropyridine in tetrahydrofuran containing n-butyl lithium is added to a solution of 3-chloro-2-ethylpropene in tetrahydrofuran. The reaction is carried out according to the procedure of Example 1 to give 1-benzyl-4-phenyl-4-(2-ethylallyl)-1,4,5,6-tetrahydropyridine. The later compound is reacted with phosphoric acid and formic acid to give, after treatment with sodium hydroxide, 2-benzyl-3,4-dehydro-5-phenyl-7-ethylmorphan. Catalytic hydrogenation of the latter compound provides 2-benzyl-5-phenyl-7-ethylmorphan.

reactant | 1-benzyl-4-phenyl-1,2,5,6-tetrahydropyridine | C(C1=CC=CC=C1)N1CC=C(CC1)C1=CC=CC=C1 | C18H19N
reactant | n-butyl lithium | C(CCC)[Li]
reactant | 3-chloro-2-ethylpropene | ClCC(=C)CC | C5H9Cl
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-benzyl-4-phenyl-4-(2-ethylallyl)-1,4,5,6-tetrahydropyridine | C(C1=CC=CC=C1)N1C=CC(CC1)(CC(=C)CC)C1=CC=CC=C1 | C23H27N
